US09023851B2
N8-{3-Chloro-4-[(1-methyl-1H-imidazol-2-yl)thio]phenyl}-N2-(3,5-dimethyl-phenylamino) [1,2,4]triazolo[1,5-a]pyrazine-2,8-diamine (“C58”)
8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-yl-(3,5-dimethyl-phenyl)-amine (0.1 g, 0.3 mmol), tris(dibenzylideneacetone)dipalladium(0) (14.0 mg, 0.01 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (14.4 mg, 0.03 mmol) and 3-chloro-4-[(1-methyl-1H-imidazol-2-yl)thio]aniline (96.6 mg, 0.4 mmol) are taken in dry 1,4 dioxane (3 mL). Lithiumhexamethyldiisilylamide (1 M in tetrahydrofuran) (0.15 mL, 0.1 mmol) is added and the reaction mixture irradiated in the microwave at 150° C. for 45 minutes. The reaction mixture is then quenched with dry methanol (1 mL) and passed through a celite pad. The filtrate is concentrated and purified by flash column chromatography column using silica gel (230-400) mesh to get the titled product as an off white solid (27 mg, 10.4%); TLC: pet ether/ethylacetate (6/4) Rf-0.4. LCMS (method A): mass found (M+H+, 477.0), Rt (min): 4.39 area % 90.1 (max), 91.0 (254 nm); 1H NMR (400 MHz, DMSO-d6): δ [ppm] 9.69 (s, 1H), 9.38 (s, 1H), 8.30 (t, J=4.76 Hz, 2H), 7.79 (m, 1H), 7.61 (d, J=4.48 Hz, 1H), 7.50 (m, 1H), 7.33 (s, 2H), 7.12 (m, 1H), 6.61 (m, 1H), 6.54 (s, 1H), 3.63 (s, 3H), 2.49 (s, 6H).

reactant | 8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-yl-(3,5-dimethyl-phenyl)-amine | 0.3 mmol, 0.1 g | ClC=1C=2N(C=CN1)N=C(N2)NC2=CC(=CC(=C2)C)C | C13H12ClN5
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.03 mmol, 14.4 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | 3-chloro-4-[(1-methyl-1H-imidazol-2-yl)thio]aniline | 0.4 mmol, 96.6 mg | ClC=1C=C(N)C=CC1SC=1N(C=CN1)C | C10H10ClN3S
reactant | 1,4 dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 14.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N8-{3-Chloro-4-[(1-methyl-1H-imidazol-2-yl)thio]phenyl}-N2-(3,5-dimethyl-phenylamino) [1,2,4]triazolo[1,5-a]pyrazine-2,8-diamine | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC=1C=2N(C=CN1)N=C(N2)NNC2=CC(=CC(=C2)C)C | C23H22ClN9S
